US06479492B1
L-phenylalanine ethyl ester hydrochloride (1.0 g, 4.4 mmol) was added to a mixture of 2,4-dichloro-6-dihexylamino-1,3,5-triazine (1.5 g, 4.5 mmol) and sodium carbonate (0.92 g, 8.7 mmol) in acetonitrile (40 mL). The reaction mixture was heated to reflux for 16 h and then allowed to col to ambient temperature. The mixture was diluted with ethyl acetate and water. The phases were separated and the organic phase was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude material was purified by flash column chromatography through silica gel (elution with chloroform) to afford N-{4-chloro-6-(N,N-dihexylamino)-1,3,5-triazin-2-yl}phenylalanine ethyl ester. Anal. Calcd. for C26H40ClN5O2: C, 63.72; H, 8.23; N 14.29. Found: C, 63.67; H, 8.06; N 14.24.

reactant | L-phenylalanine ethyl ester hydrochloride | 4.4 mmol, 1.0 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 2,4-dichloro-6-dihexylamino-1,3,5-triazine | 4.5 mmol, 1.5 g | ClC1=NC(=NC(=N1)Cl)N(CCCCCC)CCCCCC | C15H26Cl2N4
reactant | sodium carbonate | 8.7 mmol, 0.92 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-{4-chloro-6-(N,N-dihexylamino)-1,3,5-triazin-2-yl}phenylalanine ethyl ester | C(C)OC([C@@H](NC1=NC(=NC(=N1)Cl)N(CCCCCC)CCCCCC)CC1=CC=CC=C1)=O | C26H40ClN5O2
